US08030303B2
1-2 Synthesis of (2S)-[4-(carboxymethyl)thiazol-2-ylthio)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}acetamide (compound 1-2)
4-Ethoxycarbonylmethyl-2-mercaptothiazole (70.14 g) was dissolved in a mixed solution of water (300 ml) and tert-butanol (250 ml), sodium hydroxide (29.46 g) was added on a water bath, and the mixture was stirred for 1.5 hr. To the reaction mixture was added a solution of (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide obtained in the above-mentioned 1-1 in tert-butyl methyl ether, and the mixture was stirred at 65° C. for 6 hr. n-Heptane (50 ml) and water (50 ml) were added to the reaction mixture, and the mixture was cooled to room temperature. The reaction mixture was stood still and partitioned, and the aqueous layer was further washed with a mixed solvent of tert-butyl methyl ether (200 ml)/n-heptane (20 ml). 6N Hydrochloric acid (60 ml) was added to the aqueous layer, and the mixture was extracted with ethyl acetate (750 ml) and further extracted twice with a mixed solvent of ethyl acetate (175 ml)/tert-butanol (20 ml). The obtained organic layer was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to give a crude product (181 g) of compound 1-2.

reactant | 4-Ethoxycarbonylmethyl-2-mercaptothiazole | 70.14 g | C(C)OC(=O)CC=1N=C(SC1)S | C7H9NO2S2
reactant | sodium hydroxide | 29.46 g | [OH-].[Na+]
reactant | (2S)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}chloroacetamide | ClC=1C=C(CN2C[C@@H](OCC2)CNC(CCl)=O)C=CC1Cl | C14H17Cl3N2O2
reactant | n-Heptane | 50 ml | CCCCCCC | C7H16
solvent | water | 300 ml | O | H2O
solvent | tert-butanol | 250 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butyl methyl ether | COC(C)(C)C | C5H12O
solvent | water | 50 ml | O | H2O
product | (2S)-[4-(carboxymethyl)thiazol-2-ylthio)-N-{[4-(3,4-dichlorobenzyl)morpholin-2-yl]methyl}acetamide | 181 g | C(=O)(O)CC=1N=C(SC1)SCC(=O)NC[C@H]1CN(CCO1)CC1=CC(=C(C=C1)Cl)Cl | C19H21Cl2N3O4S2
